US08278320B2
To a solution of dimethyl 5-fluorothiazolo[5,4-b]pyridin-2-ylcarbonimidodithioate (95 mg, 0.349 mmol) in N,N-dimethylformamide (2 mL) was added (3S*,4R*)-3-(aminomethyl)-1-azabicyclo[2.2.1]heptan-3-ol dihydrochloride (75 mg, 0.349 mmol). The reaction was then treated with cesium carbonate (114 mg, 0.7 mmol). The reaction was heated to 100° C. for 1 hour and then cooled to room temperature. The reaction was diluted with water (20 mL) and chloroform (2×20 mL). The organic phases were combined and concentrated to residue in vacuo. The residue was then triturated in diethyl ether to give (3R*,4R*)—N-(5-fluorothiazolo[5,4-b]pyridin-2-yl)-4′H-1-azaspiro[bicyclo[2.2.1]heptane-3,5′-oxazol]-2′-amine as a precipitate (42 mg, 37%) that was collected via vacuum filtration. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.13 (br. s., 1H) 8.07 (dd, J=8.53, 7.28 Hz, 1H) 7.16 (dd, J=8.53, 1.51 Hz, 1H) 3.85 (d, J=10.29 Hz, 1H) 3.66 (d, J=10.29 Hz, 1H) 2.77-2.98 (m, 2H) 2.71 (td, J=6.65, 4.02 Hz, 2H) 2.58-2.67 (m, 2H) 2.40 (dd, J=10.16, 3.64 Hz, 1H) 1.87-2.00 (m, 1H) 1.53 (t, J=4.39 Hz, 1H). MS (LC/MS) R.T.=0.675 min; (M+H=320.1).

reactant | dimethyl 5-fluorothiazolo[5,4-b]pyridin-2-ylcarbonimidodithioate | 0.349 mmol, 95 mg | FC1=CC=C2C(=N1)SC(=N2)N=C(SC)SC | C9H8FN3S3
reactant | (3S*,4R*)-3-(aminomethyl)-1-azabicyclo[2.2.1]heptan-3-ol dihydrochloride | 0.349 mmol, 75 mg | Cl.Cl.NC[C@@]1(CN2CC[C@@H]1C2)O
reactant | cesium carbonate | 0.7 mmol, 114 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | (3R*,4R*)—N-(5-fluorothiazolo[5,4-b]pyridin-2-yl)-4′H-1-azaspiro[bicyclo[2.2.1]heptane-3,5′-oxazol]-2′-amine | FC1=CC=C2C(=N1)SC(=N2)NC=2O[C@@]1(CN2)CN2CC[C@@H]1C2 | C14H14FN5OS
